US09211280B2
Step 1. 1-(4-(1-(Trimethylsilyloxy)vinyl)phenyl)-1H-1,2,4-triazole (DI76)
To a stirred solution of 1-(4-(1H-1,2,4-triazol-1-yl)phenyl)ethanone (4.5 g, 24.0 mmol) in CH2Cl2 at 0° C., were added TEA (3.7 g, 36.1 mmol) and trimethylsilyl trifluoromethanesulfonate (8 g, 36 mmol) and the resultant reaction mixture was stirred for 1 h. The reaction mixture was quenched with a mixture of sat aq sodium bicarbonate solution and ether. The ether layer and was separated, washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford the title compound (5.5 g) which was taken directly to next step.

reactant | 1-(4-(1H-1,2,4-triazol-1-yl)phenyl)ethanone | 24.0 mmol, 4.5 g | N1(N=CN=C1)C1=CC=C(C=C1)C(C)=O | C10H9N3O
reactant | trimethylsilyl trifluoromethanesulfonate | 36 mmol, 8 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(4-(1-(Trimethylsilyloxy)vinyl)phenyl)-1H-1,2,4-triazole | 5.5 g | C[Si](OC(=C)C1=CC=C(C=C1)N1N=CN=C1)(C)C | C13H17N3OSi
